US04482710
7-[4-Chloro-3-oxo-(Z)-2-methoxyiminobutyrylamino]-3-methoxymethyl-3-cephem-4-carboxylic acid
500 mg of 3-acetoxymethyl-7-[4-chloro-3-oxo-(Z)-2-methoxyiminobutyrylamino]-3-cephem-4-carboxylic acid and 150 mg of sodium hydrogen carbonate were dissolved in 5 ml of 67% v/v aqueous methanol, and 5 g of anhydrous calcium chloride were added thereto. The resulting mixture was stirred at 65° C. for 1 hour, after which 30 ml of ice-water and 50 ml of ethyl acetate were added to the reaction mixture. The mixture was then acidified with hydrochloric acid and the aqueous phase was separated. The aqueous phase was then extracted twice, each time with 30 ml of ethyl acetate. The extracts were combined, and the combined extracts were washed with an aqueous solution of sodium chloride, dried over anhydrous magnesium sulphate, and then concentrated by evaporation under reduced pressure, to give 320 mg of the title compound, in the form of a pale solid.

reactant | 3-acetoxymethyl-7-[4-chloro-3-oxo-(Z)-2-methoxyiminobutyrylamino]-3-cephem-4-carboxylic acid | 500 mg | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(\C(\C(CCl)=O)=N/OC)=O)=O | C15H16ClN3O8S
reactant | sodium hydrogen carbonate | 150 mg | C(O)([O-])=O.[Na+]
reactant | calcium chloride | 5 g | [Cl-].[Ca+2].[Cl-]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 7-[4-Chloro-3-oxo-(Z)-2-methoxyiminobutyrylamino]-3-methoxymethyl-3-cephem-4-carboxylic acid | 320 mg | ClCC(/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)COC)C(=O)O)C1=O)=N/OC)=O | C14H16ClN3O7S
